US07612060B2
(i) Synthesis of (R)-N-(2.2-dimethoxyethyl)-2-(benzenesulfonamido)pent-4-ynamide (39)
A mixture of (R)-2-(benzenesulfonamido)pent-4-ynoic acid (11.66 g, 46.04 mmol), HOBt (7.46 g, 55.24 mmol), iPr2NEt (7.13 g, 55.24 mmol), (2,2-dimethoxyethyl)amine (5.81 g, 55.24 mmol), and EDCI (10.53 g, 55.24 mmol) in DMF (100 mL) was stirred for 24 h at RT. The reaction mixture was concentrated and taken up in H2O (100 mL). The aqueous layer was extracted with EtOAc (3×), dried over MgSO4, and concentrated to afford the title compound. 1H NMR (400 MHz, CDCl3): δ 2.43 (m, 2H), 2.71 (s, 3H), 2.85 (s, 1H), 2.89 (s, 3H), 2.96 (m, 2H), 3.98 (t, 7.1 Hz, 3H), 4.15 (t, 5.5 Hz, 1H), 7.55 (m, 3H), 7.80 (d, 8.0 Hz, 2H), 7.97 (s, 1H), 8.11 (t, 5.5 Hz, 1H).

reactant | (R)-2-(benzenesulfonamido)pent-4-ynoic acid | 46.04 mmol, 11.66 g | C1(=CC=CC=C1)S(=O)(=O)N[C@@H](C(=O)O)CC#C | C11H11NO4S
reactant | HOBt | 55.24 mmol, 7.46 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | iPr2NEt | 55.24 mmol, 7.13 g | CCN(C(C)C)C(C)C | C8H19N
reactant | (2,2-dimethoxyethyl)amine | 55.24 mmol, 5.81 g | COC(CN)OC | C4H11NO2
reactant | EDCI | 55.24 mmol, 10.53 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | (R)-N-(2.2-dimethoxyethyl)-2-(benzenesulfonamido)pent-4-ynamide | COC(CNC([C@@H](CC#C)NS(=O)(=O)C1=CC=CC=C1)=O)OC | C15H20N2O5S
